US04820834
3-((((4-Chlorophenyl)amino)carbonyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetic acid phenylmethyl ester
Equimolar amounts of 3(RS)-amino-1,3-dihydro-1-phenylmethyloxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 4-chlorophenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 220°-222° C.

reactant | 3(RS)-amino-1,3-dihydro-1-phenylmethyloxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)OCC2=CC=CC=C2)=O | C24H21N3O3
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-((((4-Chlorophenyl)amino)carbonyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetic acid phenylmethyl ester | C1(=CC=CC=C1)COC(CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC2=CC=C(C=C2)Cl)=O)=O | C31H25ClN4O4
